US08058447B2
5-(Cyclopentylacetyl)-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carbonitrile
150 mg (0.79 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 84 mg (0.79 mmol) of sodium 1-cyanoprop-1-en-2-olate, 133 mg (0.79 mmol) of 4-amino-1-cyclopentylpent-3-en-2-one and 68 μl (1.19 mmol) of acetic acid in 4 ml of 2-propanol and heated under reflux under argon for 4 h. After cooling, the suspension is filtered with suction and the remaining solid is washed with diethyl ether (20 ml). 240 mg (75% of theory) of the title compound are obtained as a white solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.79 mmol, 150 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.79 mmol, 84 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 4-amino-1-cyclopentylpent-3-en-2-one | 0.79 mmol, 133 mg | NC(=CC(CC1CCCC1)=O)C | C10H17NO
reactant | acetic acid | 1.19 mmol, 68 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 4 ml | CC(C)O | C3H8O
product | 5-(Cyclopentylacetyl)-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carbonitrile | C1(CCCC1)CC(=O)C=1C(C(=C(NC1C)C)C#N)C=1C=CC=C2C(C=C(OC12)C)=O | C25H26N2O3
